US06410556B1
To a solution of 1 N hydrochloric acid in ethyl acetate (1.0 ml) was added 2-benzyloxy-carbonylamino-5-(S)-(1,3-dioxo-1,3-dihydro-isoindol-2-ylmethyl)-4,5,6,7-tetrahydro-thieno[2,3-c]pyridine-3,6-dicarboxylic acid di-tert-butyl ester (52 mg, 0.08 mmol). The solution was stirred at room temperature for 48 hours. A precipitate was filtered off which afforded 42 mg (90%) of 2-benzyloxy-carbonylamino-5-(S)-(1,3-dioxo-1,3-dihydro-isoindol-2-ylmethyl)-4,5,6,7-tetrahydro-thieno[2,3-c]pyridine-3-carboxylic acid tert-butyl ester hydrochloride as a solid.

reactant | hydrochloric acid | 1 N | Cl | ClH
reactant | 2-benzyloxy-carbonylamino-5-(S)-(1,3-dioxo-1,3-dihydro-isoindol-2-ylmethyl)-4,5,6,7-tetrahydro-thieno[2,3-c]pyridine-3,6-dicarboxylic acid di-tert-butyl ester | 0.08 mmol, 52 mg | C(C)(C)(C)OC(=O)C1=C(SC=2CN([C@H](C(C21)N=C=O)CN2C(C1=CC=CC=C1C2=O)=O)C(=O)OC(C)(C)C)OCC2=CC=CC=C2 | C34H35N3O8S
solvent | ethyl acetate | 1.0 ml | C(C)(=O)OCC | C4H8O2
product | 2-benzyloxy-carbonylamino-5-(S)-(1,3-dioxo-1,3-dihydro-isoindol-2-ylmethyl)-4,5,6,7-tetrahydro-thieno[2,3-c]pyridine-3-carboxylic acid tert-butyl ester hydrochloride | 42 mg, 90% | Cl.C(C)(C)(C)OC(=O)C1=C(SC=2CN[C@H](C(C21)N=C=O)CN2C(C1=CC=CC=C1C2=O)=O)OCC2=CC=CC=C2 | InChI=1S/C29H27N3O6S.ClH/c1-29(2,3)38-27(36)23-22-21(39-28(23)37-15-17-9-5-4-6-10-17)13-30-20(24(22)31-16-33)14-32-25(34)18-11-7-8-12-19(18)26(32)35;/h4-12,20,24,30H,13-15H2,1-3H3;1H/t20-,24?;/m0./s1
